US07632832B2
Step E. 4-(Hydroxymethyl)-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one
Trifluoroacetic acid (5 mL) was added to a solution of tert-butyl 4-[4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate (550 mg, 1.03 mmol) in dichloromethane (15 mL). After 30 min, the reaction was concentrated to give the title compound.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-[4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | 1.03 mmol, 550 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H41N3O4Si
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(Hydroxymethyl)-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one | OCC=1NC(N(C1)C1CCNCC1)=O | C9H15N3O2
